US04929639
A mixture of (2R,4R,5S)-4-formyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (300 mg), 4-phenylsemicarbazide (227 mg) and a few drops of acetic acid in methanol (5 ml) was stirred at room temperature for 3 hours and the mixture was diluted with chloroform (30 ml). The solution was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on a silica gel column (15 g) with a mixture of n-hexane and ethyl acetate (3:1) as an eluent to give (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-(4-phenylsemicarbazonomethyl)-1,3-dioxane (403 mg) as an pale yellow oil.

reactant | (2R,4R,5S)-4-formyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 300 mg | C(=O)[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C14H22O5
reactant | 4-phenylsemicarbazide | 227 mg | C1(=CC=CC=C1)NC(NN)=O | C7H9N3O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-(4-phenylsemicarbazonomethyl)-1,3-dioxane | 403 mg | COC(=O)CCC\C=C/C[C@@H]1[C@@H](O[C@@H](OC1)C)C=NNC(=O)NC1=CC=CC=C1 | C21H29N3O5
